US05753654
Ethyl 3-benzylamino-3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-2-cyanoacrylate
To a solution of ethyl 3-benzylamino-3-methylthio-2-cyanoacrylate (1.07 g, 3.87 mmol) in acetonitrile (10 ml) was added 2-aminomethyl-4-(p-fluorobenzyl)morpholine (0.90 g, 4.02 mmol) and the mixture was stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound as white crystals (0.70 g) from the fraction from hexane-ethyl acetate (1/1). Yield=40%.

reactant | ethyl 3-benzylamino-3-methylthio-2-cyanoacrylate | 3.87 mmol, 1.07 g | C(C1=CC=CC=C1)NC(=C(C(=O)OCC)C#N)SC | C14H16N2O2S
reactant | 2-aminomethyl-4-(p-fluorobenzyl)morpholine | 4.02 mmol, 0.90 g | NCC1CN(CCO1)CC1=CC=C(C=C1)F | C12H17FN2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl 3-benzylamino-3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-2-cyanoacrylate | 0.70 g, Yield=40% | C(C1=CC=CC=C1)NC(=C(C(=O)OCC)C#N)NCC1CN(CCO1)CC1=CC=C(C=C1)F | C25H29FN4O3
